US07855216B2
Step 2: 7-(2-Fluoro-4-iodo-phenylamino)-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid (2-hydroxy-ethoxy)-amide
To a solution of 7-(2-fluoro-4-iodo-phenylamino)-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide (148 mg, 0.3 mmol) in methanol (5 mL) was added concentrated hydrochloric acid (3 drops) and the reaction mixture stirred at room temperature for 10 minutes. The reaction mixture was concentrated in vacuo and the resultant residue dissolved in acetonitrile/water, neutralised with triethylamine and subjected to reverse-phase HPLC (Phenomenex Luna 5 phenyl/hexyl, 0.1% HCO2H in water on a gradient of acetonitrile 90:10 to 15:85) to give the title compound as an orange solid (82 mg, 52%). LCMS (method A): RT=5.89 min, M+H+=471. 1H NMR (d6-DMSO, 400 MHz) 3.58 (2H, s), 3.91 (2H, s), 3.95 (3H, s), 6.44 (1H, t, J=8.85 Hz), 7.18 (1H, d, J=8.56 Hz), 7.53 (1H, dd, J=11.02, 1.92 Hz), 7.94 (1H, s), 8.43 (1H, d, J=6.27 Hz), 9.31 (1H, d, J=6.52 Hz), 12.09 (1H, s).

reactant | 7-(2-fluoro-4-iodo-phenylamino)-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.3 mmol, 148 mg | C(=C)OCCONC(=O)C1=C(C=2N=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C18H17FIN5O3
solvent | methanol | 5 mL | CO | CH4O
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | 7-(2-Fluoro-4-iodo-phenylamino)-5-methyl-5H-pyrrolo[3,2-c]pyridazine-6-carboxylic acid (2-hydroxy-ethoxy)-amide | 82 mg, 52% | OCCONC(=O)C1=C(C=2N=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C16H15FIN5O3
